US08242157B2
Step C: N-(4-Fluoro-3-trifluoromethyl-benzyl)-N-(1-methyl-1H-benzimidazol-2-yl)-benzenesulfonamide
To (4-fluoro-3-trifluoromethyl-benzyl)-(1-methyl-1H-benzimidazol-2-yl)-amine (195 mg, 0.6 mmol) in anhydrous pyridine (3 mL) at room temperature was added benzenesulfonyl chloride (193 mg, 1.1 mmol). The resulting mixture was heated to 100° C. in a microwave reactor for 1 h; then diluted with EtOAc, washed with 1 N HCl, the organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The resultant residue was purified by flash column chromatography (SiO2), eluting with a hexanes-EtOAc gradient to yield the title compound. MS 464 (M+1)+

reactant | (4-fluoro-3-trifluoromethyl-benzyl)-(1-methyl-1H-benzimidazol-2-yl)-amine | 0.6 mmol, 195 mg | FC1=C(C=C(CNC2=NC3=C(N2C)C=CC=C3)C=C1)C(F)(F)F | C16H13F4N3
reactant | benzenesulfonyl chloride | 1.1 mmol, 193 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-Fluoro-3-trifluoromethyl-benzyl)-N-(1-methyl-1H-benzimidazol-2-yl)-benzenesulfonamide | FC1=C(C=C(CN(S(=O)(=O)C2=CC=CC=C2)C2=NC3=C(N2C)C=CC=C3)C=C1)C(F)(F)F | C22H17F4N3O2S
